US08097759B2
5-Chloro-N-(2-chloropyridin-4-yl)-2-hydroxybenzamide (Compound No. 42)
Using 5-chlorosalicylic acid and 4-amino-2-chloropyridine as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 4-amino-2-chloropyridine | NC1=CC(=NC=C1)Cl | C5H5ClN2
product | 5-Chloro-N-(2-chloropyridin-4-yl)-2-hydroxybenzamide | Yield: 12.2% | ClC=1C=CC(=C(C(=O)NC2=CC(=NC=C2)Cl)C1)O | C12H8Cl2N2O2
